US06608095B2
2-[5-[5-[4-(2-Furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-(methylsulfonyl)benzyl]1H-isoindole-1,3(2H)-dione (step 1)
A mixture of 1-[3-chloromethyl-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole from step1 of Example 160 (280 mg, 0.58 mmol) and potassium phthalimide (10 mg, 0.054 mmol) in DMF was heated at 90 ° C. for 1 hour. After cooled to room temperature, the mixture was poured into water (30 mL), and extracted with ether (30 mL×2), washed with water (30 mL) and brine (30 mL), dried over MgSO4, and concentarted in vacuo to give the title compound (240 mg, 70%).

reactant | 1-[3-chloromethyl-4-(methylsulfonyl)phenyl]-5-[4-(2-furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazole | ClCC=1C=C(C=CC1S(=O)(=O)C)N1N=C(C=C1C1=CC=C(C=C1)C=1OC=CC1)C(F)(F)F | C22H16ClF3N2O3S
reactant | potassium phthalimide | 0.054 mmol, 10 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | water | 30 mL | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[5-[5-[4-(2-Furyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-(methylsulfonyl)benzyl]1H-isoindole-1,3(2H)-dione | 240 mg, 70% | O1C(=CC=C1)C1=CC=C(C=C1)C1=CC(=NN1C=1C=CC(=C(CN2C(C3=CC=CC=C3C2=O)=O)C1)S(=O)(=O)C)C(F)(F)F | C30H20F3N3O5S
